US07947715B2
Step 2: Preparation of 1-(3-chloro-4-methylphenyl)-3-(3,5-dibromo-4-fluorophenyl)-4,4,4-trifluoro-3-hydroxy-butan-1-one
To a stirred solution of 1-(3,5-dibromo-4-fluorophenyl)-2,2,2-trifluoroethanone (0.99 g) and 1-(3-chloro-4-methylphenyl)ethanone (0.48 g) in ethyl acetate (3 mL) was added dithylamine (0.062 g). The mixture was stirred at 50° C. for 2 hours. The reaction mixture was then concentrated under reduced pressure and the crude product was purified by liquid chromatography (medium pressure collection apparatus: Purif-α2 manufactured by Moritex Corporation) eluted with ethyl acetate-hexane (1:10) to afford the title compound as a pale yellow oil (1.40 g).

reactant | 1-(3,5-dibromo-4-fluorophenyl)-2,2,2-trifluoroethanone | 0.99 g | BrC=1C=C(C=C(C1F)Br)C(C(F)(F)F)=O | C8H2Br2F4O
reactant | 1-(3-chloro-4-methylphenyl)ethanone | 0.48 g | ClC=1C=C(C=CC1C)C(C)=O | C9H9ClO
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | 1-(3-chloro-4-methylphenyl)-3-(3,5-dibromo-4-fluorophenyl)-4,4,4-trifluoro-3-hydroxy-butan-1-one | 1.40 g | ClC=1C=C(C=CC1C)C(CC(C(F)(F)F)(O)C1=CC(=C(C(=C1)Br)F)Br)=O | C17H11Br2ClF4O2
